US04145347
From 12.8 g. of ethyl 2-oxo-1-pyrrolidineacetate and 17.4 g. of 2-(diethylamino)ethylamine [J.A.C.S. 68, 2006 (1946)], following the procedure of Example 1, there is obtained N-[2-(diethylamino)ethyl]-2-oxo-1-pyrrolidineacetamide; b.p. 157° C./0.1 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-(diethylamino)ethylamine | C(C)N(CCN)CC | C6H16N2
product | N-[2-(diethylamino)ethyl]-2-oxo-1-pyrrolidineacetamide | C(C)N(CCNC(CN1C(CCC1)=O)=O)CC | C12H23N3O2
